US04147799
19.5 g. of 1-(3,4-methylenedioxyphenyl)-2-chloroethanol are added to a solution of 170 g. of ethylamine in 200 ml. of cooled ethanol and the mixture is heated at 80° C. for 8 hours in an autoclave. After cooling, the ethanol and excess ethylamine are distilled off under reduced pressure. The residue is extracted with 100 ml. of 1N HCl and the extract is washed twice with 100 ml. of ether. The hydrochloric acid extract solution is made basic with 1N caustic soda and the liberated oil is extracted with ether. The ether extract is dried and an etherial hydrochloric acid solution is added thereto. The crystals which settle out on standing are filtered off and washed with ether. Upon recrystallization from isopropyl alcohol 7.8 g. of 1-(3,4-methylenedioxyphenyl)-2-ethylaminoethanol hydrochloride are obtained.

reactant | 1-(3,4-methylenedioxyphenyl)-2-chloroethanol | C1OC=2C=C(C=CC2O1)C(CCl)O | C9H9ClO3
reactant | ethylamine | C(C)N | C2H7N
solvent | ethanol | C(C)O | C2H6O
product | 1-(3,4-methylenedioxyphenyl)-2-ethylaminoethanol hydrochloride | Cl.C1OC=2C=C(C=CC2O1)C(CNCC)O | InChI=1S/C11H15NO3.ClH/c1-2-12-6-9(13)8-3-4-10-11(5-8)15-7-14-10;/h3-5,9,12-13H,2,6-7H2,1H3;1H
